US04470986
The condensation of 6-benzyloxy-5-methylimidazo[1,5-a]pyridine with 5-bromo-1,1,1-triethoxypentane essentially by the procedure described in Example 1 yields 6-benzyloxy-5-(5-ethoxycarbonylpentyl)-imidazo[1,5-a]pyridine; NMR (CDCl3) 1.4 (3H), 4.17 (2H), 4.97 (2H).

reactant | 6-benzyloxy-5-methylimidazo[1,5-a]pyridine | C(C1=CC=CC=C1)OC=1C=CC=2N(C1C)C=NC2 | C15H14N2O
reactant | 5-bromo-1,1,1-triethoxypentane | BrCCCCC(OCC)(OCC)OCC | C11H23BrO3
product | 6-benzyloxy-5-(5-ethoxycarbonylpentyl)-imidazo[1,5-a]pyridine | C(C1=CC=CC=C1)OC=1C=CC=2N(C1CCCCCC(=O)OCC)C=NC2 | C22H26N2O3
